US08729078B2
A oven dried flask was charged with 1-(2-formyl-3-iodo-phenyl)-3-iodo-1H-pyrazole-4-carbonitrile (1.703 g, 3.79 mmol), 6-tert-butyl-8-fluorophthalazin-1(2H)-one [prepared according to US2010/0222325] (919 mg, 4.17 mmol) and sodium bicarbonate (637 mg, 7.59 mmol) and taken up in dry dimethyl sulfoxide (30 ml). The mixture was degassed with argon in a sonication bath. Copper iodide (722 mg, 3.79 mmol) was added and the material was again degassed thoroughly. With sonication the mixture was heated to 60° C. for 2.5 hours and left at ambient overnight. Additional copper iodide (360 mg) was added and the material was heated for 4 hours at 60° C. under sonication. The flask was cooled to ambient and methylene chloride (40 ml) and water (40 ml) were added, with vigorous stirring. After 5 minutes the material was filtered through a plug of celite, rinsing well with a solution of 1% methanol in methylene chloride. The filtrate was transferred to a separatory funnel and the organic phase was collected. This was shaken with a 50% diluted brine solution (60 ml, some ragging). The methylene chloride phase was collected and the aqueous phases were back extracted with methylene chloride (note: some ragging observed. It helps to use larger volumes of organic and aqueous solutions on back extraction). The combined organic phase was dried with magnesium sulfate, filtered and stripped. The remainder was taken up in methylene chloride and purified through Analogix flash column chromatography eluting first with 100% dichloromethane (hold for 5 minutes) and then switch to a gradient of 1% to 3% methanol in dichloromethane (25 g silica gel) providing the desired 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-formyl-phenyl]-3-iodo-1H-pyrazole-4-carbonitrile as a light brown powder (1.2 g). LC/MS calc'd for C23H17FIN5O2 (m/e) 541.32, obs'd 542 (M+H, ES+).

reactant | 1-(2-formyl-3-iodo-phenyl)-3-iodo-1H-pyrazole-4-carbonitrile | 3.79 mmol, 1.703 g | C(=O)C1=C(C=CC=C1I)N1N=C(C(=C1)C#N)I | C11H5I2N3O
reactant | 6-tert-butyl-8-fluorophthalazin-1(2H)-one | 4.17 mmol, 919 mg | C(C)(C)(C)C=1C=C2C=NNC(C2=C(C1)F)=O | C12H13FN2O
reactant | sodium bicarbonate | 7.59 mmol, 637 mg | C([O-])(O)=O.[Na+]
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
catalyst | Copper iodide | 3.79 mmol, 722 mg | [Cu](I)I
product | 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-formyl-phenyl]-3-iodo-1H-pyrazole-4-carbonitrile | 1.2 g | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1N=C(C(=C1)C#N)I)C=O | C23H17FIN5O2
